US09085540B2
A mixture of 1-fluoro-4-nitrobenzene (750 μL), 1-(tetrahydro-2H-pyran-4-yl)piperazine dihydrochloride (2.1 g), potassium carbonate (3.2 g), and N,N-dimethylformamide (10 mL) was stirred at room temperature for 3 days. To the reactant was added water, and the precipitated solid was collected by filtration and then dried under reduced pressure to obtain 1-(4-nitrophenyl)-4-(tetrahydro-2H-pyran-4-yl)piperazine (1.83 g).

reactant | 1-fluoro-4-nitrobenzene | 750 μL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-(tetrahydro-2H-pyran-4-yl)piperazine dihydrochloride | 2.1 g | Cl.Cl.O1CCC(CC1)N1CCNCC1
reactant | potassium carbonate | 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-nitrophenyl)-4-(tetrahydro-2H-pyran-4-yl)piperazine | 1.83 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C1CCOCC1 | C15H21N3O3
